US07045512B2
Preparation of 1-{3-fluoro-4-[3-(trifluoromethyl)phenoxy]phenyl}-2-(1-nitropropylidene)-hydrazine (Compound 12)
A mixture of 3-fluoro-4-[3-(trifluoromethyl)phenoxy]aniline (1.35 g) prepared as described in Step 2 of Example 1, water (18.2 mL), and conc. HCl (1.5 mL) was stirred overnight at room temperature. The suspension mixture was cooled to −5° C. and was added dropwise of NaNO2 (0.36 g in 2 mL water) over a period of about 10 min. The reaction mixture was further stirred for 30 minutes, and added CH3CO2Na3H2O (6.6 g). The resulting salt was added to a previously prepared solution of nitropropane (0.44 g) and NaOH (0.20 g) in ethanol (8 mL) and water (2 mL). The resulting mixture was stirred at 0° C. and then at room temperature overnight. It was filtered to give a red solid that was subsequently purified by column chromatography on silica (40% dichloromethane/hexane).

reactant | 3-fluoro-4-[3-(trifluoromethyl)phenoxy]aniline | 1.35 g | FC=1C=C(N)C=CC1OC1=CC(=CC=C1)C(F)(F)F | C13H9F4NO
reactant | HCl | 1.5 mL | Cl | ClH
reactant | NaNO2 | 2 mL, 0.36 g | N(=O)[O-].[Na+]
reactant | nitropropane | 0.44 g | [N+](=O)([O-])CCC | C3H7NO2
reactant | NaOH | 0.20 g | [OH-].[Na+]
solvent | ethanol | 8 mL | C(C)O | C2H6O
solvent | water | 2 mL | O | H2O
solvent | water | 18.2 mL | O | H2O
product | 1-{3-fluoro-4-[3-(trifluoromethyl)phenoxy]phenyl}-2-(1-nitropropylidene)-hydrazine | FC=1C=C(C=CC1OC1=CC(=CC=C1)C(F)(F)F)NN=C(CC)[N+](=O)[O-] | C16H13F4N3O3
